Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Tachycardia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ yo G3P1 at 32+5 wga who was sent up from
the ATU for acute onset of SOB and tachycardia to the 130s. Pt
was getting U/S for GDMA1 and short cervix; was getting up from
U/S and all of a sudden was very SOB, tachypneic, and
tachycardic. Pt immediately taken by wheelchair to L+D for
evaluation.

In L+D, she appears more comfortable. She is able to breathe 
more
comfortably lying at ~60 degrees. When she sits up, she feels
like she becomes more SOB (and visually appears to be
tachypneic). 

She had a previous episode like this in ___ at 22+6 wga. She was
seen in the ED, where an EKG showed NSR 94 bpm, and CTA was
negative. She did have an elevated d-dimer but this was likely a
non-specific finding given her pregnancy. She says that she has
had smaller episodes since that, and in general has impaired
exercise tolerance. She is unable to walk short flat distances
without feeling her heart race and short of breath. The episodes
happen several times a week, and have increased in frequency
since ___. No obvious precipitants, time of day that they 
happen,
etc. Has not checked ___ when having an episode. Does feel like
she becomes very dizzy out of nowhere; this occurs several times
daily. This is accompanied by a heavy sensation of her limbs and
occasionally tingling in her fingers and toes. No visual changes
or HA. 

She does note that she was worked up at ___ several years ago 
for
similar symptoms (not pregnant), but that those episodes were
also associated with a "cramping" sensation in her chest. She
says she had an echo and stress test and was told these were
normal. These episodes ultimately resolved and she had no 
further
w/u.

 
Past Medical History:
PNC:
*) Dating: EDC: ___ by LMP
*) Labs: AB positive /Ab neg / RPRNR / RI / HbsAg neg / GBS
*) Routine:
- Elevated GLT, unable to perform GTT -> is being treated as
GDMA1 and followed by ___
- U/S: nl full fetal survey
- Genetics: low risk ERA with AFP
*) Issues:
- Short cervix, stable
- GDMA1, does ___ QID with range 80-120s.

POBHx: SVD, term uncomplicated 7#14. early TAB age ___.
PGynHx: Denies STD's. Denies fibroids.
PMH: denies
PSH: denies
 
Social History:
Denies EtOH/ Smoking/ Drugs. Nanny of 2mo old twins and a 2
 
Physical Exam:
On arrival:
VS: Afebrile, HR 94-120, BP 112/60, RR up to high ___
Appears uncomfortable when tachycardic, but otherwise in NAD
Tachycardic, normal S1 and S2, no m/r/g
CTAB posteriorly with good effort
Abdomen soft, gravid, ___, NE
 
Pertinent Results:
___ 06:35AM BLOOD WBC-10.0 RBC-3.61* Hgb-9.1* Hct-28.2* 
MCV-78* MCH-25.1* MCHC-32.1 RDW-14.5 Plt ___
___ 01:30PM BLOOD WBC-8.3 RBC-3.57* Hgb-9.0* Hct-27.4* 
MCV-77* MCH-25.2* MCHC-32.9 RDW-14.2 Plt ___
___ 11:56AM BLOOD WBC-7.0 RBC-3.74* Hgb-9.8* Hct-28.9* 
MCV-77* MCH-26.1* MCHC-33.8 RDW-14.4 Plt ___
___ 09:50AM BLOOD WBC-7.8 RBC-3.62* Hgb-9.3* Hct-28.0* 
MCV-77* MCH-25.7* MCHC-33.2 RDW-14.3 Plt ___
___ 06:35AM BLOOD Glucose-76 UreaN-7 Creat-0.5 Na-135 K-4.0 
Cl-105 HCO3-23 AnGap-11
___ 01:30PM BLOOD Glucose-111* UreaN-10 Creat-0.5 Na-135 
K-3.7 Cl-106 HCO3-21* AnGap-12
___ 09:12PM BLOOD Glucose-104* UreaN-11 Creat-0.5 Na-137 
K-3.6 Cl-107 HCO3-21* AnGap-13
___ 11:56AM BLOOD Glucose-165* UreaN-9 Creat-0.5 Na-134 
K-3.6 Cl-103 HCO3-18* AnGap-17
___ 11:56AM BLOOD ALT-6 AST-16 CK(CPK)-79 TotBili-0.2
___ 06:35AM BLOOD Calcium-8.6 Phos-3.6 Mg-1.8
___ 01:30PM BLOOD Calcium-8.3* Phos-3.3 Mg-1.6
___ 09:12PM BLOOD Calcium-9.2 Phos-4.5# Mg-1.7
___ 11:56AM BLOOD Albumin-3.6 Calcium-8.8 Phos-2.4* Mg-1.6 
Iron-36
___ 11:56AM BLOOD calTIBC-510* Ferritn-12* TRF-392*
___ 11:56AM BLOOD TSH-0.85
___ 09:50AM BLOOD TSH-0.85
___ 09:50AM BLOOD Free T4-0.93
___ 09:29PM BLOOD Type-ART pO2-119* pCO2-21* pH-7.53* 
calTCO2-18* Base XS--2 Intubat-NOT INTUBA
 
Brief Hospital Course:
The patient is a ___ yo G3P1 who was admitted at 33+ weeks with 
symptomatic tachycardia and dyspnea for evaluation. The patient 
was seen by cardiology, internal medicine, MFM, and pulmonology 
while in house.  She underwent a CTA, Echocardiogram, chest x 
ray, EKG,  ABG, and maintained on telemetry while in house.  All 
testing proved to be normal.  TSH was normal and Hct was mildly 
low at 28.2.  Iron studies demonstrated an iron deficiency 
anemia.  ___ evaluated and worked with the patient while she was 
in house.  The patient never had any oxygen desaturations.  The 
evaluating teams that the patient's symptoms could be attributed 
to de-conditioning given negative work up.    She was kept on 
telemetry while in house and was always in sinus rhythm.  Daily 
electrolytes were checked and repleated as needed.  

In terms of fetal well being, the patient had reactive NST and 
___ BPPs while in house.  ___ felt that there was no indication 
for steroids or delivery.  

The patient's symptoms improved, and she was discharged to home 
on ___  with close outpatient follow up.  

 
Medications on Admission:
PNV, Claritin, Benadryl, Tylenol prn, FeSO4 BID

 
Discharge Medications:
PNV, Claritin, Benadryl, Tylenol prn, FeSO4 BID

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
shortness of breath
tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
routine daily activity
 
Followup Instructions:
___